US06255502B1
Sumatriptan caprate and hydroxypropyl-beta cyclodextrin (HPB) were complexed by the kneading method. Sumatriptan caprate (1.254 g) and HPB (3.748 g) were blended together. Water (4.5 mL) was added and the mixture ground together in a mortar with a pestle to form a uniform paste. Grinding was continued for 30 minutes. The paste was then dried in a vacuum oven (40° C.; 0 bar) for 48 hours. The solid mass was broken up, passed through a 60 mesh screen and returned to the vacuum oven (40° C.; 0 bar) for 12 hours in order to ensure uniform drying of the complex. Analysis by HPLC for sumatriptan base content, and Karl Fischer for moisture content gave the following results: % sumatriptan base was 16.40% and the moisture content was 3.45%. The complex was characterised by DSC, FT-IR and XRD.

reactant | Sumatriptan caprate | CNS(=O)(=O)CC=1C=CC2=C(C1)C(=CN2)CCN(C)C.[O-]C(=O)CCCCCCCCC
reactant | hydroxypropyl-beta cyclodextrin | CC(COC[C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)O)O)O | C63H112O42
reactant | Sumatriptan caprate | 1.254 g | CNS(=O)(=O)CC=1C=CC2=C(C1)C(=CN2)CCN(C)C.[O-]C(=O)CCCCCCCCC
reactant | HPB | 3.748 g | CC(COC[C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)O)O)O | C63H112O42
solvent | Water | 4.5 mL | O | H2O
product | sumatriptan | CNS(=O)(=O)CC=1C=CC2=C(C1)C(=CN2)CCN(C)C | C14H21N3O2S
